US06407101B1
To a solution of 2-(2-amino-5-bromophenyl)propan-2-ol (18 g, 78 mmol) in dry THF (150 mL) was added 1,1′-carbonyldiimidazole (15.5 g, 94 mmol) under nitrogen. The reaction solution was heated at 50° C. overnight. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate (100 mL). The solution was washed with 1N aqueous hydrochloride solution (2×40 mL), brine (20 mL), and dried with MgSO4. After removal of the solvent in vacuo, 6-bromo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one was obtained as a white solid (20 g, 100%): mp 199-200° C.; 1H-NMR (DMSO-d6) δ10.32 (s, 1H, D2O exchangeable), 7.48 (d, 1H, J=2.1 Hz), 7.43 (dd, 1H, J=8.5, 2.1 Hz), 6.84 (d, 1H, J=8.4 Hz), 1.61 (s, 6H).

reactant | 2-(2-amino-5-bromophenyl)propan-2-ol | 78 mmol, 18 g | NC1=C(C=C(C=C1)Br)C(C)(C)O | C9H12BrNO
reactant | 1,1′-carbonyldiimidazole | 94 mmol, 15.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 6-bromo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | BrC1=CC2=C(NC(OC2(C)C)=O)C=C1 | C10H10BrNO2
